US08008303B2
[2-Methyl-3′-(4-morpholin-4-yl-phenylcarbamoyl)-biphenyl-4-yl]-carbamic acid tert-butyl ester
A mixture of 4′-tert-butoxycarbonylamino-2′-methyl-biphenyl-3-carboxylic acid (436 mg), 4-morpholin-4-yl aniline (238 mg), triethylamine (0.55 ml) and O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (757 mg) in dry DMF (1 ml) was stirred at 20 C for 18 h. Water (50 ml) was then added and the resulting colourless precipitate was collected by filtration and dried (680 mg)

reactant | 4′-tert-butoxycarbonylamino-2′-methyl-biphenyl-3-carboxylic acid | 436 mg | C(C)(C)(C)OC(=O)NC1=CC(=C(C=C1)C1=CC(=CC=C1)C(=O)O)C | C19H21NO4
reactant | 4-morpholin-4-yl aniline | 238 mg | N1(CCOCC1)C1=CC=C(N)C=C1 | C10H14N2O
reactant | triethylamine | 0.55 ml | C(C)N(CC)CC | C6H15N
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 757 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | Water | 50 ml | O | H2O
product | [2-Methyl-3′-(4-morpholin-4-yl-phenylcarbamoyl)-biphenyl-4-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC(=C(C=C1)C1=CC(=CC=C1)C(NC1=CC=C(C=C1)N1CCOCC1)=O)C)=O | C29H33N3O4
